US08476434B2
To 4-amino-2-methyl-phenol (193 mg, 1.57 mmol) was added Cs2CO3 (1.02 g, 3.14 mmol) and NMP (2.0 mL). The mixture was heated for 5 minutes at 100° C., cooled to RT and 4-(2-chloro-pyridin-3-yl)-pyrimidine (300 mg, 1.57 mmol) was added. The mixture was heated in the microwave to 210° C. for 20 minutes, cooled, filtered through a plug of cotton and purified by reverse-phase HPLC (Gilson, acidic mobile phase) to yield 3-methyl-4-(3-pyrimidin-4-yl-pyridin-2-yloxy)-phenylamine. MS m/z=279 [M+1]+. Calc'd for C16H14N4O: 278.32.

reactant | 4-amino-2-methyl-phenol | 1.57 mmol, 193 mg | NC1=CC(=C(C=C1)O)C | C7H9NO
reactant | Cs2CO3 | 3.14 mmol, 1.02 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(2-chloro-pyridin-3-yl)-pyrimidine | 1.57 mmol, 300 mg | ClC1=NC=CC=C1C1=NC=NC=C1 | C9H6ClN3
solvent | NMP | 2.0 mL | CN1CCCC1=O | C5H9NO
product | 3-methyl-4-(3-pyrimidin-4-yl-pyridin-2-yloxy)-phenylamine | CC=1C=C(C=CC1OC1=NC=CC=C1C1=NC=NC=C1)N | C16H14N4O
